US04642199
A mixed solution of 3-pentyloxy-6-methylpyridine (3.6 g, 0.02 mol), 4-hydroxybenzaldehyde (2.4 g, 0.02 mol) and acetic anhydride (4.1 g, 0.04 mol) was heated under reflux for 30 hours, followed by cooling the solution, adding a mixed solution of methanol (30 cc) and conc. hydrochloric acid (30 cc), heating the mixture for 3 hours, cooling, neutralizing with aqueous ammonia, extracting with toluene (50 cc), separating the resulting toluene layer, washing with water, and distilling off the toluene under reduced pressure to obtain a concentrate (3.7 g). To this concentrate were added toluene (50 cc) and pyridine (3 cc), followed by dropwise adding to the resulting solution, trans-4-pentylcyclohexanecarboxylic acid chloride (2.2 g, 0.01 mol), allowing the mixture to stand overnight, washing with water, then with 2N-hydrochloric acid, further with 2N-NaOH aqueous solution and finally with water till the washing water became neutral, distilling off toluene under reduced pressure, and recrystallizing the remaining solids from heptane to obtain 6-[4-(trans-4-pentylcyclohexylcarbonyloxy)styryl]-3-pentyloxypyridine (0.8 g), which was then dissolved in toluene (50 cc), followed by adding Pd-C (0.2 g) to the solution, and subjecting the mixture to catalytic reduction at room temperature and the atmospheric pressure. After completion of the reaction, the catalyst was filtered off, followed by distilling off the solvent under reduced pressure and recrystallizing the remaining solids from heptane to obtain the objective 6-[4-(trans-4-pentylcyclohexylcarbonyloxy)phenethyl]-3-pentyloxypyridine (0.4 g), having as phase transition points, a crystalline-smectic point of 67.2°-68.1° C., a smectic A-nematic point of 101.0°-102.0° C. and a N-I point of 131.1°-131.5° C.

reactant | 3-pentyloxy-6-methylpyridine | 0.02 mol, 3.6 g | C(CCCC)OC=1C=NC(=CC1)C | C11H17NO
reactant | 4-hydroxybenzaldehyde | 0.02 mol, 2.4 g | OC1=CC=C(C=O)C=C1 | C7H6O2
reactant | acetic anhydride | 0.04 mol, 4.1 g | C(C)(=O)OC(C)=O | C4H6O3
reactant | hydrochloric acid | 30 cc | Cl | ClH
reactant | ammonia | N | H3N
reactant | trans-4-pentylcyclohexanecarboxylic acid chloride | 0.01 mol, 2.2 g | C(CCCC)[C@@H]1CC[C@H](CC1)C(=O)Cl | C12H21ClO
solvent | methanol | 30 cc | CO | CH4O
product | 6-[4-(trans-4-pentylcyclohexylcarbonyloxy)styryl]-3-pentyloxypyridine | 0.8 g | C(CCCC)[C@@H]1CC[C@H](CC1)C(=O)OC1=CC=C(C=CC2=CC=C(C=N2)OCCCCC)C=C1 | C30H41NO3
